US08859803B2
A reaction was performed similarly to Example 1 using 0.25 g (0.0016 mole) diethyl malonate, 0.95 mL (0.0166 mole) acetic acid, 1.71 g (0.0047 mole) of 25% sodium chlorite aqueous solution, and GC analysis was performed to give 88.1% GC total area value of diethyl ketomalonate.

reactant | diethyl malonate | 0.0016 mole, 0.25 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acetic acid | 0.0166 mole, 0.95 mL | C(C)(=O)O | C2H4O2
reactant | sodium chlorite | 0.0047 mole, 1.71 g | Cl(=O)[O-].[Na+]
product | diethyl ketomalonate | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
